US08957203B2
Step 1: tert-butyl ((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamate
A solution of (1R,2S)-1-((tert-butoxycarbonyl)amino)-2-vinylcyclopropanecarboxylic acid (2.62 g, 11.5 mmol) and CDI (2.43 g, 15.0 mmol) in THF (40 mL) was heated at reflux for 50 min under nitrogen. The solution was cooled to room temperature and transferred by cannula to a solution of cyclopropylsulfonamide (1.82 g, 15.0 mmol) in THF (10 mL). To the resulting solution was added DBU (2.40 mL, 16.1 mmol) and stirring was continued for 20 h. The mixture was quenched with 1N HCl to pH 1 and THF was evaporated in vacuo. The suspension was extracted with EtOAc (2×50 mL) and the combined organic extracts dried (Na2SO4). Purification by recystallization from hexanes-EtOAc (1:1) afforded the title compound (2.4 g) as a white solid. The mother liquor was purified by a Biotage 40S column (eluted 9% acetone in DCM) to give a second batch of the compound tert-butyl ((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamate (1.1 g). Both batches were combined (total yield 92%). 1H NMR: (DMSO-d6) δ ppm 0.96-1.10 (m, 4H), 1.22 (dd, J=5.5, 9.5 Hz, 1H), 1.39 (s, 9H), 1.70 (t, J=5.5 Hz, 1H), 2.19-2.24 (m, 1H), 2.90 (m, 1H), 5.08 (d, J=10 Hz, 1H), 5.23 (d, J=17 Hz, 1H), 5.45 (m, 1H), 6.85, 7.22 (s, NH (rotamers); LC-MS MS m/z 331 (M++H).

reactant | (1R,2S)-1-((tert-butoxycarbonyl)amino)-2-vinylcyclopropanecarboxylic acid | 11.5 mmol, 2.62 g | C(C)(C)(C)OC(=O)N[C@]1([C@@H](C1)C=C)C(=O)O | C11H17NO4
reactant | CDI | 15.0 mmol, 2.43 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | cyclopropylsulfonamide | 15.0 mmol, 1.82 g | C1(CC1)S(=O)(=O)N | C3H7NO2S
reactant | DBU | 16.1 mmol, 2.40 mL | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl ((1R,2S)-1-((cyclopropylsulfonyl)carbamoyl)-2-vinylcyclopropyl)carbamate | 2.4 g | C1(CC1)S(=O)(=O)NC(=O)[C@@]1([C@@H](C1)C=C)NC(OC(C)(C)C)=O | C14H22N2O5S
